US08710063B2
Add trifluoroacetic acid (5 mL) to a solution of tert-butyl N-[2-[8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)purin-9-yl]ethyl]carbamate (0.51 g, 0.001 mol) in dichloromethane (5 mL) at 0° C. Allow the reaction to warm to room temperature and stir for 2 h. Quench the reaction mixture with saturated aqueous sodium bicarbonate solution and then extract with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate to give 2-[8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)purin-9-yl]ethanamine (0.39 g). ES/MS m/z 386 (M+1).

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl N-[2-[8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)purin-9-yl]ethyl]carbamate | 0.001 mol, 0.51 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)C)C)CCNC(OC(C)(C)C)=O | C24H32ClN7O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)purin-9-yl]ethanamine | 0.39 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)C)C)CCN | C19H24ClN7
